US09193719B2
3-Bromo-2,4-dimethyl-6-nitropyridine (2.2 g, 9.5 mmol) and 2-chloro-4-hydroxypyridine (2.5 g, 19 mmol) were combined in DMA (10 mL) and the solution was sonicated and sparged with Ar for 10 min. K2CO3 (4.0 g, 29 mmol) was added and the reaction mixture was stirred at 100° C. for 12 h. The reaction mixture was poured into water (200 mL) and the precipitated solids were isolated by filtration. The solids were washed with ½ sat. K2CO3 (aq) (3×50 mL) and water (3×50 mL) and dried under high vacuum for 5 h. The crude product was purified by silica gel chromatography (EtOAc/hexanes) to afford 3-((2-chloropyridin-4-yl)oxy)-2,4-dimethyl-6-nitropyridine (0.50 g, 19%) as a brown solid. 1H NMR (400 MHz, DMSO-d6): δ 8.33-8.30 (m, 2H), 7.15 (d, J=2.3 Hz, 1H), 7.01 (dd, J=5.8, 2.3 Hz, 1H), 2.33 (s, 3H), 2.23 (s, 3H); MS (ESI) m/z: 280.0 (M+H+).

reactant | 3-Bromo-2,4-dimethyl-6-nitropyridine | 9.5 mmol, 2.2 g | BrC=1C(=NC(=CC1C)[N+](=O)[O-])C | C7H7BrN2O2
reactant | 2-chloro-4-hydroxypyridine | 19 mmol, 2.5 g | ClC1=NC=CC(=C1)O | C5H4ClNO
reactant | K2CO3 | 29 mmol, 4.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 200 mL | O | H2O
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
product | 3-((2-chloropyridin-4-yl)oxy)-2,4-dimethyl-6-nitropyridine | 0.50 g, 19% | ClC1=NC=CC(=C1)OC=1C(=NC(=CC1C)[N+](=O)[O-])C | C12H10ClN3O3
